US08138189B2
Step 1: (2-Chloro-4-methoxy-phenyl)-acetic acid ethyl ester
Ethanol (8.72 mL, 150 mmol), DMAP (304 mg, 2 mmol), EDC (9.56 g, 50 mmol), and triethylamine (6.91 mL, 50 mmol) were added under cooling (ice) to a solution of (2-chloro-4-methoxy-phenyl)-acetic acid (10.00 g, 50 mmol, [CAS Reg. No. 91367-09-8]) in CH2Cl2 (200 mL). The reaction mixture was stirred at r.t. overnight, then diluted (CH2Cl2), and washed (1N HCl). The organic layer was dried (Na2SO4), and the solvent was evaporated. Purification of the residue by column chromatography (silica gel, heptane:ethyl acetate=100:0-70:30) gave the title compound (7.27 g, 64%). 1H NMR (300 MHz, CDCl3) δ 7.18 (1H, d), 6.94 (1H, d), 6.79 (1H, dd), 4.17 (2H, q), 3.79 (3H, s), 3.69 (2H, s), 1.26 (3H, t).

reactant | Ethanol | 150 mmol, 8.72 mL | C(C)O | C2H6O
reactant | EDC | 50 mmol, 9.56 g
reactant | triethylamine | 50 mmol, 6.91 mL | C(C)N(CC)CC | C6H15N
reactant | (2-chloro-4-methoxy-phenyl)-acetic acid | ClC1=C(C=CC(=C1)OC)CC(=O)O | C9H9ClO3
catalyst | DMAP | 2 mmol, 304 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (2-Chloro-4-methoxy-phenyl)-acetic acid ethyl ester | 7.27 g, 64% | C(C)OC(CC1=C(C=C(C=C1)OC)Cl)=O | C11H13ClO3
